US05886185
3- [N-(2-Cyano-ethyl)-N-ethyl-amino]-propionitrile
To a stirred mixture of 3,3'-iminodipropionitrile (14.4 g, 0.117 mol), acetaldelyde (25.7 g, 0.584 mol), methanol 50 mL), and acetonitrile (400 mL) was added sodium cyanoborohydride (9.6 g, 0.152 mol). The mixture was allowed to stir at room temperature overnight. The solvent was evaporated. The resulting residue was partitioned between dichloromethane and H2O. The dichloromethane layer was washed with water, dried, and evaporated to give a yellow oil, which was distilled by a Kugelrohr apparatus to give the title compound (9.2 g, 52%). 1H NMR (CDCl3, 200 MHz) 2.86 (t, J=7.0 Hz, 4H), 2.64 (q, J=7.0 Hz, 4H), 2.48 (t, J=7.0 Hz, 4H), 1.08 (t, J=7.0 Hz, 3H).

reactant | 3,3'-iminodipropionitrile | 0.117 mol, 14.4 g | N(CCC#N)CCC#N | C6H9N3
reactant | methanol | 50 mL | CO | CH4O
reactant | sodium cyanoborohydride | 0.152 mol, 9.6 g | C(#N)[BH3-].[Na+]
reactant | acetonitrile | 400 mL | C(C)#N | C2H3N
product | 3- [N-(2-Cyano-ethyl)-N-ethyl-amino]-propionitrile | 9.2 g, 52% | C(#N)CCN(CC)CCC#N | C8H13N3
